US05686424
L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] N-Methylphenethylamide Hydrochloride
Following the procedure described in Example 120, the coupling of N-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl]-L-proline hydrochloride (250 mg, 0.69 mmol) and N-methyl phenethylamine (0.30 mL, 2.1 mmol) provided, after treatment with HCl in Et2O, 20 mg of the hydrochloride salt of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] N-methyl phenethylamide as a powder

reactant | HCl | Cl | ClH
reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] N-methyl phenethylamide | COC=1C=C(C=C(C1OC)OC)C(CC1(CCN(C([C@H]2NCCC2)=O)C)CC=CC=C1)=O | C25H34N2O5
solvent | Et2O | CCOCC | C4H10O
product | L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] N-Methylphenethylamide Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C(CC1(CCN(C([C@H]2NCCC2)=O)C)CC=CC=C1)=O | InChI=1S/C25H34N2O5.ClH/c1-27(24(29)19-9-8-13-26-19)14-12-25(10-6-5-7-11-25)17-20(28)18-15-21(30-2)23(32-4)22(16-18)31-3;/h5-7,10,15-16,19,26H,8-9,11-14,17H2,1-4H3;1H/t19-,25?;/m0./s1
